US05472933
2-[(Methoxyimino)methyl]-1-methyl-1H-pyrrole-3-sulfonamide
To a solution of 5.74 g (21.9 mmol) of N-(1,1-dimethylethyl)-2-[(methoxyimino)-methyl]-1H-pyrrole-3-sulfonamide in 75 mL methylene chloride under a nitrogen atmosphere was add 75 mL of TFA. The clear orange reaction mixture was allowed to stir at room temperature overnight ca. 16 hours. The orange reaction mixture was concentrated in vacuo. Three portions of diethyl ether were added to the residue and removed by evaporation to remove residual TFA, affording 3.49 g of the title compound as a gray solid, m.p. 120°-122° C. 1H NMR (CDCl3, 200 MHz.) δ: 8.43(s,1H), 6.66(d,1H), 6.54(d,1H), 6.1-6.7(bs,2H), 3.96(s,3H), 3.79(s,3H).

reactant | N-(1,1-dimethylethyl)-2-[(methoxyimino)-methyl]-1H-pyrrole-3-sulfonamide | 21.9 mmol, 5.74 g | CC(C)(C)NS(=O)(=O)C1=C(NC=C1)C=NOC | C10H17N3O3S
reactant | TFA | 75 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | 2-[(Methoxyimino)methyl]-1-methyl-1H-pyrrole-3-sulfonamide | 3.49 g | CON=CC=1N(C=CC1S(=O)(=O)N)C | C7H11N3O3S
